US04857543
Sodium methoxide (0.4 g) is added to a solution of 2-dimethylamino-2-(2-thienyl)-1-butanol (7.5 g) and methyl 4-amino-3-chloro-2-methoxybenzoate (16.2 g) in toluene (150 ml) and the mixture is stirred at 110° C. for 96 hours while removing methanol which is produced during the reaction. After cooling, the mixture is washed with water, dried and concentrated to remove solvent. The residue is purified by silica gel column chromatography (solvent, chloroform:ethanol=50:1), whereby 2-dimethylamino-2-(2-thienyl)butyl 4-amino-3-chloro-2-methoxybenzoate (3.6 g) is obtained as colorless crystals.

reactant | Sodium methoxide | 0.4 g | C[O-].[Na+]
reactant | 2-dimethylamino-2-(2-thienyl)-1-butanol | 7.5 g | CN(C(CO)(CC)C=1SC=CC1)C | C10H17NOS
reactant | methyl 4-amino-3-chloro-2-methoxybenzoate | 16.2 g | NC1=C(C(=C(C(=O)OC)C=C1)OC)Cl | C9H10ClNO3
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-dimethylamino-2-(2-thienyl)butyl 4-amino-3-chloro-2-methoxybenzoate | 3.6 g | NC1=C(C(=C(C(=O)OCC(CC)(C=2SC=CC2)N(C)C)C=C1)OC)Cl | C18H23ClN2O3S
